US04761173
N-(2,6-Dichloro-3-methylphenyl)-4,6-dimethyl-2-pyrimidinesulfonamide
This material was prepared from 2,6-dichloro-3-methylaniline and 4,6-dimethyl-2-pyrimidinesulfonyl fluoride following the general procedure described in Example 2. The desired product was isolated as a solid, m.p. 234°-235°. NMR (90 MHZ) D6 -Acetone: δ 7.4 (d, 2H), 7.3 (s, 1H), 2.5 (s, 6H) and 2.3 (s, 3H).

reactant | 2,6-dichloro-3-methylaniline | ClC1=C(N)C(=CC=C1C)Cl | C7H7Cl2N
reactant | 4,6-dimethyl-2-pyrimidinesulfonyl fluoride | CC1=NC(=NC(=C1)C)S(=O)(=O)F | C6H7FN2O2S
product | N-(2,6-Dichloro-3-methylphenyl)-4,6-dimethyl-2-pyrimidinesulfonamide | ClC1=C(C(=CC=C1C)Cl)NS(=O)(=O)C1=NC(=CC(=N1)C)C | C13H13Cl2N3O2S
